US04017492
In the manner given in Example 14, a solution of 7-chloro-2-[[1-carboxy-4-(4-methylpiperazino)butylidene]-hydrazino]-3-methyl-5-phenyl-3H-1,4-benzodiazepine can be treated with ethereal diazomethane to give 7-chloro-2-[[1-(methoxycarbonyl)-4-(4-methylpiperazino)butylidene]-hydrazino]-3-methyl-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-[[1-carboxy-4-(4-methylpiperazino)butylidene]-hydrazino]-3-methyl-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)NN=C(CCCN2CCN(CC2)C)C(=O)O)C)C2=CC=CC=C2)C1 | C26H31ClN6O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 7-chloro-2-[[1-(methoxycarbonyl)-4-(4-methylpiperazino)butylidene]-hydrazino]-3-methyl-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)NN=C(CCCN2CCN(CC2)C)C(=O)OC)C)C2=CC=CC=C2)C1 | C27H33ClN6O2
